US08357707B2
Stage A.5: N-(7-Oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl)-acetamide
To acetic anhydride (80 mL) was added at rt 2-amino-5,6-dihydro-4H-benzothiazol-7-one (10 g, 59.4 mmol) and the resulting suspension was heated to reflux. After 1.75 h stirring at reflux, the RM was allowed to cool with stirring and stirred for 18 h at it before further cooling with an ice/NaCl bath, and a solid was collected by filtration. The solid was then triturated twice with refluxing acetone (10 mL then 15 mL) before filtering and drying under vacuum at 40° C. to give the title product as a beige solid. HPLC: tR 3.47 min (method D). MS: M−H=211.1. 1H-NMR in DMSO-d6 (600 MHz): 12.55 (s, br, 1H); 2.84 (t, 2H); 2.48 (t, 2H); 2.17 (s, 3H); 2.065 (qt, 2H).

reactant | 2-amino-5,6-dihydro-4H-benzothiazol-7-one | 59.4 mmol, 10 g | NC=1SC2=C(N1)CCCC2=O | C7H8N2OS
reactant | acetic anhydride | 80 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-(7-Oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl)-acetamide | O=C1CCCC=2N=C(SC21)NC(C)=O | C9H10N2O2S
